US05128448
To a solution of benzo[b]thiophene-2-propanoic acid (1.10 g, 5.33 mmol) and Et3N (0.89 mL, 6.4 mmol) in dry THF (22 mL) at -78° C. was added dropwise pivaloyl chloride (0.66 mL, 5.4 mmol). After the resultant white suspension was stirred for 10 min at -78° C. and 30 min at 0° C., it was recooled to -78° C. and a precooled (-78° C.) solution of metallated oxazolidinone, prepared by addition of n-BuLi (1.6M in hexane, 3.66 mL, 5.85 mmol) to a -78° C. solution of (S)-(-)-4-benzyl-2-oxazolidinone (1.05 g, 5.87 mmol) in THF (22 mL), was added via a cannula. The reaction mixture was stirred for an additional 1 h and then was quenched by addition of saturated aq. NH4Cl (36 mL). The mixture was concentrated and the residue was extracted with CH2Cl2 (3×100 mL). The combined organic phases were washed with saturated aq. NaHCO3 (85 mL), dried (Na2SO4) and concentrated to dryness. The crude solid (2.31 g) was purified by flash chromatography, eluting with EtOAc-hexane (1:2.5) to give (S)-3-[3-(benzo[b]thien-2-yl)-1-oxopropyl]-4-(phenylmethyl)-2-oxazolidinone (1.82 g, 4.98 mmol) in 93% yield as a solid, mp 119°-122° C. [α]25D +54.9° (c 0.55, CHCl3).

reactant | benzo[b]thiophene-2-propanoic acid | 5.33 mmol, 1.10 g | S1C2=C(C=C1CCC(=O)O)C=CC=C2 | C11H10O2S
reactant | Et3N | 6.4 mmol, 0.89 mL | CCN(CC)CC | C6H15N
reactant | pivaloyl chloride | 5.4 mmol, 0.66 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | n-BuLi | 5.85 mmol, 1.6M, 3.66 mL | [Li]CCCC
reactant | (S)-(-)-4-benzyl-2-oxazolidinone | 5.87 mmol, 1.05 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-3-[3-(benzo[b]thien-2-yl)-1-oxopropyl]-4-(phenylmethyl)-2-oxazolidinone | 4.98 mmol, 1.82 g, 93% yield | S1C2=C(C=C1CCC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C=CC=C2 | C21H19NO3S
